US06518260B1
5.4. Ethyl 3-[1,1′-biphenyl]-4-yl-2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate
200 mg (0.34 mmol) of ethyl 3-(4-bromophenyl)-2-[[hydroxy[2-phenyl-1-[[(phenyl-methoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate are condensed with 42 mg (0.34 mmol) of phenylboronic acid, working in 1.8 ml of a 2/1 toluene/methanol mixture, tetrakis(triphenylphosphine)palladium and 0.4 ml of 2M sodium carbonate (0.8 mmol). The reaction mixture is stirred for 6 hours under nitrogen and at reflux. After cooling, 10 ml of ethyl acetate are added and the mixture is acidified to pH=3 with aqueous 2N hydrochloric acid solution. After filtration through Celite, rinsed with ethyl acetate, the solvent is evaporated off under reduced pressure. The product is purified by recrystallization from a mixture of ethyl acetate and hexane. 180 mg of product are recovered (yield=90.4%).

reactant | ethyl 3-(4-bromophenyl)-2-[[hydroxy[2-phenyl-1-[[(phenyl-methoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate | 0.34 mmol, 200 mg | BrC1=CC=C(C=C1)CC(C(=O)OCC)CP(=O)(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)O | C28H31BrNO6P
reactant | phenylboronic acid | 0.34 mmol, 42 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.8 mmol, 2M, 0.4 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene methanol | C1(=CC=CC=C1)C.CO
product | Ethyl 3-[1,1′-biphenyl]-4-yl-2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate | yield=90.4% | C1(=CC=C(C=C1)CC(C(=O)OCC)CP(=O)(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)O)C1=CC=CC=C1 | C34H36NO6P
